US07173129B2
Ex-26A: To a solution of 4-acetylbenzenesulfonyl chloride (0.50 g, 2.3 mmol) in acetone (7.5 mL) was added a solution of glycine (0.42 g, 5.7 mmol) in 5% aqueous sodium hydroxide (2.5 mL) and the reaction was stirred for 30 min at room temperature. The mixture was diluted with water (10 mL), acidified with a 1 N hydrochloric acid solution, and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with brine (2×20 mL), dried over sodium sulfate, and the solvent was removed under reduced pressure. The resulting solid was dried in vacuo to afford 0.55 g (94%) of (4-acetylbenzenesulfonylamino)acetic acid as a white solid, mp 213–215° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.28 (t, 1H, J=5.4 Hz), 8.12 (d, 2H, J=8.4 Hz), 7.92 (d, 2H, J=8.4 Hz), 3.64 (d, 2H, J=5.1 Hz), 2.64 (s, 3H). Anal. Calcd. for C10H11NO5S: C, 46.69; H, 4.31; N, 5.44; S, 12.46; Found: C, 46.76; H, 4.43; N, 5.39; S, 12.16.

reactant | 4-acetylbenzenesulfonyl chloride | 2.3 mmol, 0.50 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
reactant | glycine | 5.7 mmol, 0.42 g | NCC(=O)O | C2H5NO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetone | 7.5 mL | CC(=O)C | C3H6O
solvent | sodium hydroxide | 2.5 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | (4-acetylbenzenesulfonylamino)acetic acid | 0.55 g, 94% | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C10H11NO5S
